US05538988
The (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione was dissolved in methanol and treated with 1.5 equivalents of anhydrous hydrogen chloride in ethyl ether. Removal of the solvents by co-evaporation with ethyl acetate gave (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride, m.p. 245° C., [α]D25 =11.30° (C=0.5, DMSO).

reactant | (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | NCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | C14H15F2N3S
reactant | hydrogen chloride | 1.5 equivalents | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
product | (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride | Cl.NCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | InChI=1S/C14H15F2N3S.ClH/c15-9-3-8-4-10(1-2-12(8)13(16)5-9)19-11(6-17)7-18-14(19)20;/h3,5,7,10H,1-2,4,6,17H2,(H,18,20);1H/t10-;/m0./s1
